US07229999B2
5-(4-Chloro-phenyl)-N-((R)-2-cyclopropyl-2-hydroxy-propyl)-6-(pyridin-3-ylmethoxy)-nicotinamide
The title compound was synthesized in analogy to Example 75, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, 3-pyridinemethanol, (4-chloro-phenyl)-boronic acid and (R)-α-(aminomethyl)-α-methyl-cyclopropanemethanol as starting materials to yield 5-(4-chloro-phenyl)-N-((R)-2-cyclopropyl-2-hydroxy-propyl)-6-(pyridin-3-ylmethoxy)-nicotinamide, MS (ISP) 438.1 (M+H)+.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | 3-pyridinemethanol | N1=CC(=CC=C1)CO | C6H7NO
reactant | (4-chloro-phenyl)-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | (R)-α-(aminomethyl)-α-methyl-cyclopropanemethanol | NC[C@](O)(C1CC1)C | C6H13NO
product | 5-(4-chloro-phenyl)-N-((R)-2-cyclopropyl-2-hydroxy-propyl)-6-(pyridin-3-ylmethoxy)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NC[C@](C)(O)C2CC2)C1)OCC=1C=NC=CC1 | C24H24ClN3O3
